US04886809
Into 4 ml of benzene and 10 ml of 50% sodium hydroxide aqueous solution were added 1.2 ml of α-phenylacetonitrile, 1 ml of bromochloropropane and a catalytic amount of tri-n-butylammonium iodide, and the whole mixture was stirred at room temperature overnight under nitrogen gas stream. Then 0.5 ml of bromochloropropane was further added to the reaction mixture and reacted at 40° C. for 3 hours. After the reaction was completed, the reaction mixture was extracted with diethyl ether, and the extract was washed with an aqueous solution saturated with sodium chloride, and dried with anhydrous magnesium sulfate. The solvent was removed by evaporators under reduced pressure, and the thus obtained residue was purified by means of a silica gel column chromatography (eluent: n-hexane:ethyl acetate=5:1) to yield 1.7 g of 4-chloro-1-cyanobutylbenzene.

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | α-phenylacetonitrile | 1.2 ml | C1(=CC=CC=C1)CC#N | C8H7N
reactant | bromochloropropane | 1 ml | BrC(CC)Cl | C3H6BrCl
reactant | tri-n-butylammonium iodide | [I-].C(CCC)[NH+](CCCC)CCCC
reactant | bromochloropropane | 0.5 ml | BrC(CC)Cl | C3H6BrCl
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | 4-chloro-1-cyanobutylbenzene | 1.7 g | ClC1=CC=C(C=C1)C(CCC)C#N | C11H12ClN
